US05952325
Dimethyl 4-cyano-4-(2-fluorophenyl)heptanedioate
2-Fluorophenylacetonitrile (39.85 g, 0.29 mol) and ethyl acrylate (96 ml, 0.89 mol) were stirred at reflux in t-butanol (400 ml) as benzyltrimethylammonium hydroxide (40% solution in MeOH, 140 ml, 0.30 mol) was added portionwise over 48 h. The mixture was then evaporated to dryness, dissolved in ethyl acetate (1000 ml), washed with dilute HCl and brine, dried (Na2SO4) and evaporated to give an oil. This was dissolved in MeOH (300 ml), and a solution of methanolic HCl (formed by cautious addition of thionyl chloride (20 ml) to MeOH (200 ml)) was added. The solution was stirred at reflux for 2 h, evaporated, dissolved in ether, filtered, and evaporated again to yield the title compound (97.6 g, quantitative) as an amber oil.

reactant | 2-Fluorophenylacetonitrile | 0.29 mol, 39.85 g | FC1=C(C=CC=C1)CC#N | C8H6FN
reactant | ethyl acrylate | 0.89 mol, 96 ml | C(C=C)(=O)OCC | C5H8O2
reactant | benzyltrimethylammonium hydroxide | 0.30 mol, 140 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | HCl | 20 ml | Cl | ClH
reactant | t-butanol | 400 ml | C(C)(C)(C)O | C4H10O
solvent | MeOH | 300 ml | CO | CH4O
product | Dimethyl 4-cyano-4-(2-fluorophenyl)heptanedioate | 97.6 g | C(#N)C(CCC(=O)OC)(CCC(=O)OC)C1=C(C=CC=C1)F | C16H18FNO4
